US04559354
9.3 g of 2-(4-methoxyphenyl)-1-methyl-4-(trifluoromethyl)-imidazole are dissolved in a mixture of 46.1 ml of acetic acid and 46.5 ml of 48% strength hydrobromic acid and the solution is heated under reflux for 48 hours. The solution is concentrated in a rotary evaporator to form a thick paste which is diluted with water; the pH is adjusted to 11 with concentrated ammonia and finally extraction is carried out several times with ethyl acetate. After drying the organic phase and filtration, concentration is carried out in a rotary evaporator until a thick suspension is produced. After cooling, the suspension is filtered and the crystallisate is dried in vacuo, yielding the 2-(4-hydroxyphenyl)-1-methyl-4-(trifluoromethyl)-1H-imidazole having a melting point of 220°-221°.

reactant | 2-(4-methoxyphenyl)-1-methyl-4-(trifluoromethyl)-imidazole | 9.3 g | COC1=CC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)C | C12H11F3N2O
solvent | acetic acid | 46.1 ml | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 2-(4-hydroxyphenyl)-1-methyl-4-(trifluoromethyl)-1H-imidazole | OC1=CC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)C | C11H9F3N2O
